US08236998B2
A solution of 57 mg of 2,3-methylenedioxy-6,13-pentacenequinone dissolved in 25 mL of THF was added to 1.6 mL of a 1 mol/1000 mL THF solution of lithium triethylborohydride, and they were allowed to react with each other at room temperature for 1 hour in a nitrogen atmosphere. The resulting solution was neutralized with diluted aqueous hydrochloric acid, and the organic phase was separated, concentrated and dried under a vacuum to produce 6,13-dihydro-6,13-dihydroxy-2,3-(methylendioxy)pentacene almost stoichiometrically.

reactant | 2,3-methylenedioxy-6,13-pentacenequinone | 57 mg | C1OC2=CC3=CC=4C(C5=CC6=CC=CC=C6C=C5C(C4C=C3C=C2O1)=O)=O | C23H12O4
reactant | lithium triethylborohydride | C(C)[BH-](CC)CC.[Li+]
reactant | hydrochloric acid | Cl | ClH
solvent | THF | 25 mL | C1CCOC1 | C4H8O
solvent | THF | 1000 mL | C1CCOC1 | C4H8O
product | 6,13-dihydro-6,13-dihydroxy-2,3-(methylendioxy)pentacene | OC1C=2C=C3C=C4C(=CC3=CC2C(C2=CC3=CC=CC=C3C=C12)O)OCO4 | C23H16O4
